US09260375B2
2-[4-(4-Acetoxypiperidin-1-carbonyl)benzyl]-3-isopropylmaleic acid dimethyl ester
To a solution of 2-(4-carboxybenzyl)-3-isopropylmaleic acid dimethyl ester (10.3 mg, 0.0322 mmol) in dichloromethane (500 μL) were added 1-hydroxybenzotriazole (13.3 mg, 0.0965 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (20.8 mg, 0.109 mol), piperidin-4-yl acetate hydrochloride (28.8 mg, 0.161 mmol) and triethylamine (14.6 mg, 0.145 mmol) with stirring under ice cooling. After stirring at room temperature for 1 h, the reaction mixture was diluted with water to separate the phases. The aqueous layer was extracted again with ethyl acetate, and the combined organic layer was concentrated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 1:2) to give 11.1 mg of the title compound as a solid (yield: 78%).

reactant | 2-(4-carboxybenzyl)-3-isopropylmaleic acid dimethyl ester | 0.0322 mmol, 10.3 mg | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)C(=O)O)=O | C17H20O6
reactant | 1-hydroxybenzotriazole | 0.0965 mmol, 13.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.109 mol, 20.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | piperidin-4-yl acetate hydrochloride | 0.161 mmol, 28.8 mg | Cl.C(C)(=O)OC1CCNCC1
reactant | triethylamine | 0.145 mmol, 14.6 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 μL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-[4-(4-Acetoxypiperidin-1-carbonyl)benzyl]-3-isopropylmaleic acid dimethyl ester | 11.1 mg, yield: 78% | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)C(=O)N1CCC(CC1)OC(C)=O)=O | C24H31NO7
